Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
needs colonoscopy
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
HISTORY OBTAINED LARGELY FROM MEDICAL RECORDS. 
___ yo man with mild mental retardation and paranoid 
schizophrenia who lives in a group home who requires a screening 
colonoscopy.  He has a failed colonoscopy in the past due to a 
poor prep.  He has limited bathroom facilities at home.  He also 
apparently has a history of orthostatic hypotension and 
therefore requires careful monitoring during the prep.

Currently he feels well and is without complaint.  ROS negative 
in full. 

 
Past Medical History:
back pain
hyperlipidemia
spinal stenosis
mild mental retardation
paranoid schizophrenia
ataxia

 
Social History:
___
Family History:
Sister deceased of myocardial infarction at age ~___

 
Physical Exam:
ADMISSION EXAM
Middle aged man, NAD. 
AVSS.
Alert, pleasant, cooperative, NAD.  
HEENT: MMM
CV: RRR
PULM: CTAB
ABD: flat, soft, NT/ND
EXT: warm, no CCE
NEuro: fluent speech
Psych: appropriate affect. speech is slightly pressured. 

DISCHARGE EXAM
NAD. 
98  140/95  86  18  99%ra
PAIN: 0
Alert, pleasant, cooperative, NAD.  
HEENT: MMM
CV: RRR
PULM: CTAB
ABD: soft, NT/ND
EXT: warm, no CCE

 
Pertinent Results:
___ 06:00AM BLOOD WBC-7.5 RBC-4.36* Hgb-12.2* Hct-35.7* 
MCV-82 MCH-27.9 MCHC-34.1 RDW-13.3 Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-105 HCO3-27 AnGap-12
___ 06:00AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.1

Colonscopy Impression:
Diverticulosis of the sigmoid colon and descending colon
Polyp in the colon (polypectomy)
Polyps in the transverse colon (polypectomy)
Otherwise normal colonoscopy to cecum
 
Brief Hospital Course:
___ with MR presents for screening colonoscopy.

First colonoscopy aborted due to incomplete prep. Re-prepped and 
second colonoscopy sucessful. Diverticulosis and polyps found. 
Polypectomy x3. 

Mild MR / paranoid schizophrenia: continued home meds 
BPH: cont Flomax
Back pain: continued tylenol PRN. Held motrin, resumed on 
discharge
HL/HTN: continue statin. Held ASA, resumed on discharge. 
Propranolol 10 mg PO BID 
GERD: Ranitidine 150 mg PO BID 
contact: program contact: ___ ___, cell ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO HS 
2. Aspirin 325 mg PO DAILY 
3. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit Oral daily 
4. Simvastatin 40 mg PO DAILY 
5. Ranitidine 150 mg PO BID 
6. Ibuprofen 600 mg PO TID:PRN pain 
7. Acetaminophen 650 mg PO Q4H:PRN pain 
8. Divalproex (EXTended Release) 500 mg PO DAILY 
9. Mirtazapine 15 mg PO HS 
10. Propranolol 10 mg PO BID 
11. Desipramine 100 mg PO QPM 
12. OLANZapine 30 mg PO HS 
13. Benztropine Mesylate 0.5 mg PO BID 
14. ClonazePAM 1 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Benztropine Mesylate 0.5 mg PO BID 
3. ClonazePAM 1 mg PO BID 
4. Desipramine 100 mg PO QPM 
5. Divalproex (EXTended Release) 500 mg PO DAILY 
6. Mirtazapine 15 mg PO HS 
7. OLANZapine 30 mg PO HS 
8. Propranolol 10 mg PO BID 
9. Ranitidine 150 mg PO BID 
10. Simvastatin 40 mg PO DAILY 
11. Tamsulosin 0.4 mg PO HS 
12. Aspirin 325 mg PO DAILY 
13. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit Oral daily 
14. Ibuprofen 600 mg PO TID:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
colonic polyps
diverticulosis
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a colonoscopy. Several polyps were found 
and were removed. They were sent for pathology which remains 
pending at the time of discharge.
 
Followup Instructions:
___